Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___ Kapseal / trazodone / Ultram
 
Attending: ___.
 
Chief Complaint:
new spells concerning for seizures, admit for
characterization of events
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ yo RH woman with h/o epilepsy
since ___ years of age, diagnosed with likely JME and now with
generalized epilepsy and major depression, who presents as an
elective admission for EEG characterization of increasing events
concerning for seizures. 

The events in question are episodes of extreme exhaustion, a
"rush through my body, like the sensation of a volcano that's
about to explode", tremors of her arms and face bilaterally, and
sudden crying. These started three months ago, and having been
happening once per month since then. If she does not take ativan
when they happen, they eventually lead to rhythmic jerking
movements of her hands followed by a generalized seizure. Her
last event was in late ___. After this her lamictal XR was
increased from 450mg to 475mg daily.

Prior to three months ago, her usual seizure frequency was 
lower,
about twice per year. She reports that her seizures were all
previously "grand mal seizures", with the last one occuring in
___. She had a seizure in ___ resulting
in a car crash, and reports her attention and memory have been a
lot worse since then. 

Her seizure triggers are sleep deprivation, stress and missed
medications. She endorses chronically poor sleep, partly due to
sleep apnea (for which she is scheduled to be fitting for CPAP 
in
the near future). Sleep has been even worse lately due to stress
over her son's upcoming wedding and depression related to her
worsening memory issues. 
 
Neuro ROS: Positive for--- headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.  
 
General ROS: no fever or chills. No night sweats or recent 
weight
loss or gain. Denies cough, shortness of breath. Denies chest
pain or tightness, palpitations. Denies nausea, vomiting,
diarrhea, constipation or abdominal pain. No recent change in
bowel or bladder habits. No dysuria. Denies arthralgias or
myalgias. Denies rash.  

 
Past Medical History:
Juvenile Myoclonic Epilepsy  
Sleep Apnea  
Depression  
Fibromyalgia  
GERD  
PSH:  
C-section ___  
CCY ___  

 
Social History:
___
Family History:
Negative for epilepsy or other genetic neurological disorders.  
 
Physical Exam:
GENERAL EXAM: 
- Vitals: 98.3, 127/80, 79, 18, 100% RA 
- General: middle-aged woman in NAD, pleasant, cooperative,
talking comfortably with examiner
- HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted
in oropharynx  
- Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity

- Pulmonary: CTABL
- Cardiac: RRR
- ___: SNTND
- Extrem: WWP
- Skin: no rashes/lesions noted

NEURO EXAM: 
- Mental status: awake, alert, oriented x3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Able to follow both midline and appendicular
commands. No right-left confusion. Able to register 3 objects 
and
recall ___ at 5 minutes. No evidence of apraxia or neglect.
Language: speech is clear, fluent, nondysarthric with intact
naming, repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to read without difficulty.  
Cranial Nerves:  
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk. VFF to finger counting.  
III, IV, VI: EOMI without nystagmus. Normal saccades.  
V: Facial sensation intact to light touch.  
VII: No facial droop, facial musculature symmetric.  
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally.  
XII: Tongue protrudes in midline.  
 
Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  
No adventitious movements, such as tremor, noted. No asterixis
noted.  
Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  
L ___ 5 5  
R ___ 5 5  
 
Sensory: No deficits to light touch throughout. No extinction to
DSS.  
 
DTRs:  
Bi Tri ___ Pat Ach  
L ___ 2 1  
R ___ 2 1  
Briskly withdrew legs to plantar stim bilaterally but toes
appeared downgoing.  
 
Coordination: No intention tremor or dysmetria on finger-nose,
FNF or HKS bilaterally.  
 
Gait: Good initiation. Narrow-based, normal stride and arm 
swing.
Able to walk in tandem without difficulty. Romberg absent.  
 
Pertinent Results:
___ 04:40AM BLOOD WBC-8.7 RBC-4.35 Hgb-12.5 Hct-37.4 MCV-86 
MCH-28.7 MCHC-33.4 RDW-13.3 Plt ___
___ 04:40AM BLOOD Glucose-98 UreaN-12 Creat-0.6 Na-140 
K-4.3 Cl-102 HCO3-32 AnGap-10
___ 04:40AM BLOOD ALT-11 AST-16 AlkPhos-55 TotBili-0.2
___ 04:40AM BLOOD TSH-0.___dmitted for EEG in setting of worsening events. She has had one 
generalized tonic-clonic seizure on ___, as well as multiple 
pushbutton events for twitching, spaciness, fatigue, all of 
which generally correlate with brief generalized spike/wave & 
polyspike discharges. Clobazam 5mg PO BID was started, with 
quick taper up to 10mg PO BID. There was a clinical and 
electrographic improvement after initiation of clobazam. 
Discharged home in stable condition with plans to follow up with 
outpatient neurology on ___. 
  

 
Medications on Admission:
Home Meds (confirmed):
- Lamotrigine XR 475mg daily (after dinner)
- Sertraline 50mg daily
- Lorazepam 0.5mg BID PRN anxiety
- Acetaminophen PRN
 
Discharge Medications:
1. Sertraline 50 mg PO DAILY 
2. LaMICtal XR *NF* (lamoTRIgine) 75 mg ORAL QPM 
3. Clobazam 10 mg PO/NG BID 
4. LaMICtal XR *NF* (lamoTRIgine) 400 mg ORAL QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for EEG monitoring.  A generalized seizure was 
captured on the morning of ___, and so we started you on a 
long-acting benzodiazepine called Clobazam.  Your clobazam was 
increased to 10mg twice a day which you tolerated well.  Call 
the Neurology Clinic with any questions or concerns.
 
Followup Instructions:
___